US03933890
A solution of 2-(3-acetoxyoctyl)-2,3-epoxycyclopentanone (26.8 g.)[prepared as described in (g) above] in glacial acetic acid (500 ml.) was heated at reflux for 12 hours. The excess acetic acid was then removed in vacuo and the residue distilled under reduced pressure to give 5-acetoxy-2-(3-acetoxyoctyl)cyclopent-2-enone (24.7 g.), b.p. 164°-175°C./0.2 mm.Hg.

reactant | 2-(3-acetoxyoctyl)-2,3-epoxycyclopentanone | C(C)(=O)OC(CCC12C(CCC1O2)=O)CCCCC | C15H24O4
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 5-acetoxy-2-(3-acetoxyoctyl)cyclopent-2-enone | 24.7 g | C(C)(=O)OC1CC=C(C1=O)CCC(CCCCC)OC(C)=O | C17H26O5
